US04002647
5-ethoxy-1,5-dimethylhexyl p-toluenesulfonate and 6-hydroxy-2,3-dihydrobenzofuran are reacted to produce 6-[(5-ethoxy-1,5-dimethylhexyl)-oxy]-2,3-dihydrobenzofuran of boiling point (bulb-tube) 127° C./0.02 mmHg; nD24 = 1.5023.

reactant | 5-ethoxy-1,5-dimethylhexyl p-toluenesulfonate | C1(=CC=C(C=C1)S(=O)(=O)OC(CCCC(C)(C)OCC)C)C | C17H28O4S
reactant | 6-hydroxy-2,3-dihydrobenzofuran | OC1=CC2=C(CCO2)C=C1 | C8H8O2
product | 6-[(5-ethoxy-1,5-dimethylhexyl)-oxy]-2,3-dihydrobenzofuran | C(C)OC(CCCC(C)OC1=CC2=C(CCO2)C=C1)(C)C | C18H28O3
